US07456164B2
4-[4-(4-{3-[ethyl(methyl)amino]propoxy}phenyl)tetrahydro-2H-pyran-4-ylmethyl]-morpholine
To a stirred solution of 3-{4-[4-(aminomethyl)tetrahydro-2H-pyran-4-yl]phenoxy}-N-ethyl-N-methylpropan-1-amine (500 mg, 1.6 mmol) and bis(2-bromoethyl)ether (345 mg, 1.5 mmol) in anhydrous acetonitrile (50 mL) was added potassium carbonate (450 mg, 3.3 mmol). The mixture was heated to 60° C. overnight then concentrated in vacuo. The crude product was partitioned between dichloromethane (50 ml) and water (50 ml), the aqueous phase was extracted with dichloromethane (25 ml) and the combined organics were dried (Na2SO4), filtered and concentrated in vacuo. Purification of the crude material was carried out with flash chromatography (silica gel, dichloromethane/methanol/aqueous ammonia 100:0:0 to 96:4:0.4) to afford the title compound as a clear colourless oil (315 mg, 0.84 mmol, 52%). 1H NMR (400 MHz CDCl3) δ 1.05 (t, 3H), 1.82-1.93 (m, 2H), 1.92-2.00 (m, 2H), 2.08-2.20 (m, 6H), 2.25 (s, 3H), 2.39 (s, 2H), 2.40-2.50 (q, 2H), 2.50-2.59 (m, 2H), 3.48-3.60 (m, 6H), 3.70-3.80 (m, 2H), 4.00 (t, 2H), 6.86 (d, 2H), 7.20 (d, 2H). LRMS APCI+ m/z 377 [MH]+. HRMS ESI+ m/z 377.2792 [MH]+.−

reactant | 3-{4-[4-(aminomethyl)tetrahydro-2H-pyran-4-yl]phenoxy}-N-ethyl-N-methylpropan-1-amine | 1.6 mmol, 500 mg | NCC1(CCOCC1)C1=CC=C(OCCCN(C)CC)C=C1 | C18H30N2O2
reactant | bis(2-bromoethyl)ether | 1.5 mmol, 345 mg | BrCCOCCBr | C4H8Br2O
reactant | potassium carbonate | 3.3 mmol, 450 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 4-[4-(4-{3-[ethyl(methyl)amino]propoxy}phenyl)tetrahydro-2H-pyran-4-ylmethyl]-morpholine | 0.84 mmol, 315 mg, 52% | C(C)N(CCCOC1=CC=C(C=C1)C1(CCOCC1)CN1CCOCC1)C | C22H36N2O3
